US04730051
A mixture of 2.42 (10 m mol) of 1,4-dihydro-2,6-dimethyl-4-oxo-N-phenyl-3-pyridinecarboxamide, 1.84 g (15 m mol) of n-propyl bromide, 1.52 g (11 m mol) of potassium carbonate and 40 ml of N,N-dimethylformamide was stirred for 7 hours at 90° C. (bath temperature). About 100 ml of water was added to the reaction mixture. The mixture was cooled to room temperature to precipitate crystals. The crystals were filtered off, washed and dried under reduced pressure to obtain 2.14 g of 2,6-dimethyl-N-phenyl-4-propoxy-3-pyridinecarboxamide

reactant | 1,4-dihydro-2,6-dimethyl-4-oxo-N-phenyl-3-pyridinecarboxamide | CC=1NC(=CC(C1C(=O)NC1=CC=CC=C1)=O)C | C14H14N2O2
reactant | n-propyl bromide | 1.84 g | CCCBr | C3H7Br
reactant | potassium carbonate | 1.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | water | 100 ml | O | H2O
product | 2,6-dimethyl-N-phenyl-4-propoxy-3-pyridinecarboxamide | 2.14 g, Yield: 75.3% | CC1=NC(=CC(=C1C(=O)NC1=CC=CC=C1)OCCC)C | C17H20N2O2
